US05935981
1-Piperidino-1-(3-pyridylmethyl)amino-2-nitroethylene (Compound 23)
In 20 ml of EtOH was dissolved 0.8 g (0.004 mole) of 1-methylthio-1-piperidino-2-nitroethylene followed by addition of 0.4 g (0.004 mole) of 3-pyridylmethylamine. The mixture was refluxed for 2 hours. The ethanol was distilled off and the residue was purified by silica gel column chromatography to give 0.3 g of the title compound as a pale yellow powder.

reactant | 1-methylthio-1-piperidino-2-nitroethylene | 0.004 mole, 0.8 g | CSC(=C[N+](=O)[O-])N1CCCCC1 | C8H14N2O2S
reactant | 3-pyridylmethylamine | 0.004 mole, 0.4 g | N1=CC(=CC=C1)CN | C6H8N2
solvent | EtOH | 20 ml | CCO | C2H6O
product | 1-Piperidino-1-(3-pyridylmethyl)amino-2-nitroethylene | 0.3 g | N1(CCCCC1)C(=C[N+](=O)[O-])NCC=1C=NC=CC1 | C13H18N4O2
